US05594021
α-(2-Benzo[b]thienyl)-3,4-(methylenedioxy)benzyl alcohol was prepared by the method of Example 40A using benzo[b]thiophene (7.5 mmoles, 1.0 g), t-BuLi (1.7M, 9.7 mmoles, 5.7 ml), piperonal (8.9 mmoles, 1.0 g) and THF (20 ml). Flash chromatography (20% ethyl acetate/hexanes) provided 1.6 g (74%) of a yellow solid.

reactant | benzo[b]thiophene | 7.5 mmoles, 1.0 g | S1C2=C(C=C1)C=CC=C2 | C8H6S
reactant | t-BuLi | 9.7 mmoles, 1.7M, 5.7 ml | [Li]C(C)(C)C
reactant | piperonal | 8.9 mmoles, 1.0 g | C1=CC2=C(C=C1C=O)OCO2 | C8H6O3
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | α-(2-Benzo[b]thienyl)-3,4-(methylenedioxy)benzyl alcohol | S1C2=C(C=C1C(C1=CC3=C(C=C1)OCO3)O)C=CC=C2 | C16H12O3S
